US06410592B1
B: 2-(N-benzylmethylamino)methyl-6-cyclohexyloxy-1-phenyl-3,4-dihydronaphthalene
To a mixture of 2-(N-benzylmethylamino)methyl-6-hydroxy-1-phenyl-3,4-dihydronaphthalene (0.53 g), cyclohexanol (0.26 cm3), triphenylphosphine (0.579 g) and tetrahydrofuran (20 cm3), was added diethyl azodicarboxylate (0.35 cm3) at room temperature. After stirring for 5 h the solvent was removed under reduced pressure. The crude product was purified by column chromatography [silica, eluting with ethyl acetate-heptane (1:4)] to yield the title compound (0.442 g) as a yellow oil.

reactant | 2-(N-benzylmethylamino)methyl-6-hydroxy-1-phenyl-3,4-dihydronaphthalene | 0.53 g | C(C1=CC=CC=C1)CNCC1=C(C2=CC=C(C=C2CC1)O)C1=CC=CC=C1 | C25H25NO
reactant | cyclohexanol | 0.26 cm3 | C1(CCCCC1)O | C6H12O
reactant | triphenylphosphine | 0.579 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.35 cm3 | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 2-(N-benzylmethylamino)methyl-6-cyclohexyloxy-1-phenyl-3,4-dihydronaphthalene | 0.442 g | C(C1=CC=CC=C1)CNCC1=C(C2=CC=C(C=C2CC1)OC1CCCCC1)C1=CC=CC=C1 | C31H35NO
